US07989450B2
A solution of Na2CO3 (237 mg, 2.24 mmoles) in water (10 ml) was added to the methyl [3-(chlorofuran-2-yl)-4-phenyl-5-hydroxy-2-isoxazolin-5-yl]carboxylate (360 mg, 1.12 mmoles) in MeOH (10 ml). The reaction mixture was heated under reflux conditions for 2 h. It was then acidified with HCl and then the MeOH was distilled at a reduced pressure and CHCl3 was added. The two phases were separated and the aqueous phase was extracted three times with CHCl3. The combined organic phases were dried over anhydrous Na2SO4 and the solvent evaporated at a reduced pressure to give the crude [3-(5chlorofuran-2-yl)-4-phenylisoxazol-5-yl]carboxylic acid which is purified by crystallisation from CHCl3/hexane (300 mg, 93% yield). M.p. 168-170° C. FT-IR (KBr): 3500-2850, 1709, 1614, 1592, 1521, 1454, 1416, 1392, 1305, 1249, 1208, 1153, 1122, 1022, 1006, 981, 941, 899, 779, 696 cm−1. 1H NMR (300 MHz, CDCl3, δ): 7.48-7.42 (m, 3H, aromatic protons); 7.39-7.32 (m, 2H, aromatic protons); 7.00-6.50 (bs, 1H, OH: exchange with D2O); 6.14 (d, J=3.6 Hz, 1H, furyl proton); 6.12 (d, J=3.6Hz, 1H, furyl proton). 13C NMR (75 MHz, CDCl3, δ): 159.9, 154.8, 153.6, 141.6, 139.2, 129.4, 129.1, 128.3, 126.8, 123.9, 114.8, 107.9. LC-MS (ESI−): 288[(M−1)−, 69], 117 (100). Anal. Calc. for C14H8ClNO4: C, 58.05; H, 2.78; N, 4.83. Found: C, 58.07; H, 2.75; N, 4.80.

reactant | Na2CO3 | 2.24 mmoles, 237 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | methyl [3-(chlorofuran-2-yl)-4-phenyl-5-hydroxy-2-isoxazolin-5-yl]carboxylate | 1.12 mmoles, 360 mg | ClC1=C(OC=C1)C1=NOC(C1C1=CC=CC=C1)(O)C(=O)OC | C15H12ClNO5
reactant | HCl | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | MeOH | 10 ml | CO | CH4O
product | [3-(5chlorofuran-2-yl)-4-phenylisoxazol-5-yl]carboxylic acid | ClC1=CC=C(O1)C1=NOC(=C1C1=CC=CC=C1)C(=O)O | C14H8ClNO4
